US07795288B2
(4-Methoxy-2-trifluoromethyl-phenyl)-(5-thiophen-3-yl-thiazol-2-yl)-amine
The title compound is prepared as described in Example 12 (Procedure B) for 4-(5-thiophen-3-yl-thiazol-2-yl-amino)-phenol but starting from (4-methoxy-2-trifluoromethyl-phenyl)-thiourea. After addition of the thiourea, the reaction mixture is heated to 50° C. for 30 min. The mixture is heated to 70° C. for 16 h, after addition of DIEA. The title compound: ES-MS: 357.0 [M+H]+; single peak at tR=4.36 min (System 2); Rf=0.56 (CH2Cl2/MeOH, 95/5).

reactant | 4-(5-thiophen-3-yl-thiazol-2-yl-amino)-phenol | S1C=C(C=C1)C1=CN=C(S1)NC1=CC=C(C=C1)O | C13H10N2OS2
reactant | (4-methoxy-2-trifluoromethyl-phenyl)-thiourea | COC1=CC(=C(C=C1)NC(=S)N)C(F)(F)F | C9H9F3N2OS
reactant | thiourea | NC(=S)N | CH4N2S
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | (4-Methoxy-2-trifluoromethyl-phenyl)-(5-thiophen-3-yl-thiazol-2-yl)-amine | COC1=CC(=C(C=C1)NC=1SC(=CN1)C1=CSC=C1)C(F)(F)F | C15H11F3N2OS2
